US06664247B2
To a solution of [2-(4-acetamido-phenylsulfanyl)-7-nitroquinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine (147 mg, 3.38.10−4 mol) in methanol (5 mL) is added Pd/C 10% (40 mg) and the reaction mixture is treated with hydrogen at balloon pressure at 45° C. for 20 hours. The catalyst is filtered through a pad of celite which is then washed with dilute HCl. The combined yellow filtrate is evaporated and the resulting solid residue is crystallized from methanol to afford the desired [2-(4-acetamido-phenylsulfanyl)-7-hydroxyaminoquinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine.

reactant | [2-(4-acetamido-phenylsulfanyl)-7-nitroquinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | 147 mg | C(C)(=O)NC1=CC=C(C=C1)SC1=NC2=CC(=CC=C2C(=N1)NC=1NN=C(C1)C)[N+](=O)[O-] | C20H17N7O3S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd/C | 40 mg | [Pd] | Pd
product | [2-(4-acetamido-phenylsulfanyl)-7-hydroxyaminoquinazolin-4-yl]-(5-methyl-2H-pyrazol-3-yl)-amine | C(C)(=O)NC1=CC=C(C=C1)SC1=NC2=CC(=CC=C2C(=N1)NC=1NN=C(C1)C)NO | C20H19N7O2S
